US06169107A
After 1.28 g (9.69 mmol) of 2,5-dimethoxyfuran was added to a solution of 2.91 g (8.81 mmol) of ethyl 7-(2-aminoethoxy)-1-methyl-4-trifluoromethyl-2-indolecarboxylate in 30 ml of acetic acid, the mixture was stirred at 50° C. for 4 hours and at 70° C. for further an hour. Toluene was added to the reaction mixture followed by concentration under reduced pressure. Ice water was poured onto the resulting residue. The mixture was then extracted with ethyl acetate. The extract was washed with water and dried over magnesium sulfate. The solvent was distilled off under reduced pressure and the resulting residue was purified by silica gel column chromatography to give 1.96 g of ethyl 1-methyl-7-[2-(1H-pyrrol-1-yl)ethoxy]-4-trifluoromethyl-2-indolecarboxylate.

reactant | 2,5-dimethoxyfuran | 9.69 mmol, 1.28 g | COC=1OC(=CC1)OC | C6H8O3
reactant | ethyl 7-(2-aminoethoxy)-1-methyl-4-trifluoromethyl-2-indolecarboxylate | 8.81 mmol, 2.91 g | NCCOC=1C=CC(=C2C=C(N(C12)C)C(=O)OCC)C(F)(F)F | C15H17F3N2O3
reactant | Toluene | C1(=CC=CC=C1)C | C7H8
solvent | acetic acid | 30 ml | C(C)(=O)O | C2H4O2
product | ethyl 1-methyl-7-[2-(1H-pyrrol-1-yl)ethoxy]-4-trifluoromethyl-2-indolecarboxylate | 1.96 g | CN1C(=CC2=C(C=CC(=C12)OCCN1C=CC=C1)C(F)(F)F)C(=O)OCC | C19H19F3N2O3
